### PR TITLE
[Merged by Bors] - feat(RingTheory/Coalgebra/*): add basics about sweedler notation

### PR DESCRIPTION
**Pull request by jjaassoonn**
Though the name is called sweedler notation, no new notations are actually introduced. This PR is actually about expanding tensor product.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Sweedler.lean [hunk 1]
```diff
@@ -0,0 +1,94 @@
...
+namespace SweedlerNotation
+
+open TensorProduct BigOperators Coalgebra HopfAlgebra
+
+section
+
+variable {R A : Type*} [CommSemiring R] [AddCommMonoid A] [Module R A]
+variable {F : Type*} [FunLike F A (A ⊗[R] A)] [LinearMapClass F R A (A ⊗[R] A)] (comul : F)
+
+lemma abstract_comul_exists_repr (x : A) :
```
Comment (101damnations) [inline Mathlib/RingTheory/Sweedler.lean:23]: Thanks for this PR! I think this lemma can be generalised to a random element of a tensor product `A ⊗[R] B` instead of `comul` of something, and then this and the next 4 declarations could be moved to `LinearAlgebra.TensorProduct.Basic` and given less `comul`-y names. And then the `Coalgebra` and `HopfAlgebra` sections could just be moved to the `Coalgebra` and `HopfAlgebra` files

Comment (jjaassoonn) [reply Mathlib/RingTheory/Sweedler.lean]: I have generalized and moved this lemma to `LinearAlgebra.TensorProduct.Basic`, but it seems that the file is too long (

**Comment by 101damnations** [comment]
Hmm I've just seen #11859, which adds `TensorProduct.exists_finset`

**Comment by 101damnations** [comment]
Hm looks like I have messed this up. I will look at it tomorrow

**Comment by jjaassoonn** [comment]
> Hm looks like I have messed this up. I don't commit to other people's branches often. I will look at it tomorrow. Sorry 😭 😭

Now it has been fixed xd.

**Review by rosborn — COMMENTED** [review]
I wonder if it would be useful to wrap the representation into an object and provide a summation notation for the representation. This could be done at a later stage though after some more api is developed.

**Comment by kbuzzard** [comment]
@101damnations this PR is a bit old now -- does it fit in with your current plans?

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 2]
```diff
@@ -37,6 +37,31 @@ class CoalgebraStruct (R : Type u) (A : Type v)
   /-- The counit of the coalgebra -/
   counit : A →ₗ[R] R
 
+variable (R) in
```
Comment (101damnations) [inline Mathlib/RingTheory/Coalgebra/Basic.lean:40]:
```suggestion
```

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 3]
```diff
@@ -37,6 +37,31 @@ class CoalgebraStruct (R : Type u) (A : Type v)
...
+/--
+An representation of an element `a` of a coalgebra `A` is a finite sum of pure tensors `∑ xᵢ ⊗ yᵢ`
```
Comment (101damnations) [inline Mathlib/RingTheory/Coalgebra/Basic.lean:42]:
```suggestion
A representation of an element `a` of a coalgebra `A` is a finite sum of pure tensors `∑ xᵢ ⊗ yᵢ`
```

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 4]
```diff
@@ -37,6 +37,31 @@ class CoalgebraStruct (R : Type u) (A : Type v)
...
+  /-- the finite indexing set of a representation of `comul a` -/
+  (index : Finset ι)
+  /-- the first coordinate of a representation of `comul a` -/
+  (left : ι → A)
+  /-- the second coordinate of a representation of `comul a` -/
+  (right : ι → A)
+  /-- `comul a` is equal to a finite sum of some pure tensors -/
+  (eq : ∑ i ∈ index, left i ⊗ₜ[R] right i = comul a)
+
+variable (R) in
```
Comment (101damnations) [inline Mathlib/RingTheory/Coalgebra/Basic.lean:58]:
```suggestion
```

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 5]
```diff
@@ -80,7 +105,19 @@ theorem rTensor_counit_comul (a : A) : counit.rTensor A (comul a) = 1 ⊗ₜ[R]
...
 
+open BigOperators CoalgebraStruct
+
+lemma sum_counit_tmul_eq {a : A} (repr : Repr R a) :
+    ∑ i ∈ repr.index, counit (R := R) (repr.left i) ⊗ₜ (repr.right i) = 1 ⊗ₜ[R] a := by
+  simpa [← repr.eq, map_sum] using congr($(rTensor_counit_comp_comul (R := R) (A := A)) a)
+
+lemma sum_tmul_counit_eq {a : A} (repr : Repr R a) :
+    ∑ i ∈ repr.index, (repr.left i) ⊗ₜ counit (R := R) (repr.right i) = a ⊗ₜ[R] 1 := by
+  simpa [← repr.eq, map_sum] using congr($(lTensor_counit_comp_comul (R := R) (A := A)) a)
```
Comment (101damnations) [inline Mathlib/RingTheory/Coalgebra/Basic.lean:116]: Now the `repr` is bundled, would these be good `simp` lemmas?

File: Mathlib/RingTheory/Coalgebra/Hom.lean [hunk 6]
```diff
@@ -296,4 +297,28 @@ instance subsingleton_to_ring : Subsingleton (A →ₗc[R] R) :=
...
+
+lemma sum_tmul_counit_apply_eq
+    {F : Type*} [FunLike F A B] [CoalgHomClass F R A B] (φ : F) {a : A} (repr : Repr R a) :
+    ∑ i ∈ repr.index, counit (R := R) (repr.left i) ⊗ₜ φ (repr.right i) = 1 ⊗ₜ[R] φ a := by
+  simp [← sum_counit_tmul_eq  (repr.induced φ)]
+
+lemma sum_tmul_apply_counit_eq
+    {F : Type*} [FunLike F A B] [CoalgHomClass F R A B] (φ : F) {a : A} (repr : Repr R a) :
+    ∑ i ∈ repr.index, φ (repr.left i) ⊗ₜ counit (R := R) (repr.right i) = φ a ⊗ₜ[R] 1 := by
+  simp [← sum_tmul_counit_eq (repr.induced φ)]
```
Comment (101damnations) [inline Mathlib/RingTheory/Coalgebra/Hom.lean:322]: Same `simp` comment

File: Mathlib/RingTheory/HopfAlgebra.lean [hunk 7]
```diff
@@ -70,6 +70,28 @@ theorem mul_antipode_lTensor_comul_apply (a : A) :
...
+
+lemma sum_antipode_mul_eq {a : A} (repr : Repr R a) :
+    ∑ i ∈ repr.index, antipode (R := R) (repr.left i) * repr.right i =
+      algebraMap R A (counit a) := by
+  simpa [← repr.eq, map_sum] using congr($(mul_antipode_rTensor_comul (R := R)) a)
+
+lemma sum_mul_antipode_eq {a : A} (repr : Repr R a) :
+    ∑ i ∈ repr.index, repr.left i * antipode (R := R) (repr.right i) =
+      algebraMap R A (counit a) := by
+  simpa [← repr.eq, map_sum] using congr($(mul_antipode_lTensor_comul (R := R)) a)
```
Comment (101damnations) [inline Mathlib/RingTheory/HopfAlgebra.lean:83]: Same `simp` comment

**Review by 101damnations — COMMENTED** [review]
LGTM! Some minor comments.

File: Mathlib/RingTheory/Coalgebra/Basic.lean (hunk 5 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Coalgebra/Basic.lean]: added `simp` tag

File: Mathlib/RingTheory/Coalgebra/Hom.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Coalgebra/Hom.lean]: added

File: Mathlib/RingTheory/HopfAlgebra.lean (hunk 7 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/HopfAlgebra.lean]: added

**Review by rosborn — APPROVED** [review]
Apologies for the late review. I took a look last week and completely forgot to comment. It looks good, though I am curious what people want sweedler notation to look like in mathlib. The docstrings suggest `∑ xᵢ ⊗ yᵢ` which is a reasonable goal, imo. In other parts of mathlib, usually a `sum` function like the following is defined and notation is based off of that.
```lean
def Repr.sum {a : A} {B : Type*} [AddCommMonoid B] (repr : Repr R a) (f : A × A → B) : B :=
  ∑ i ∈ repr.index, f (repr.left i, repr.right i)

example {a : A} (repr : Repr R a) : repr.sum (fun (xᵢ, yᵢ) => xᵢ ⊗ₜ counit (R := R) yᵢ) = a ⊗ₜ[R] 1 := by
  rw [← lTensor_counit_comul, ← repr.eq]
  simp [Repr.sum]

-- Potential notation?
example {a : A} (repr : Repr R a) : ∑ˢ xᵢ, yᵢ in repr, xᵢ ⊗ₜ counit (R := R) yᵢ = a ⊗ₜ[R] 1
-- Or default to xᵢ, yᵢ when no names are given
example {a : A} (repr : Repr R a) : ∑ˢ repr, xᵢ ⊗ₜ counit (R := R) yᵢ = a ⊗ₜ[R] 1
```
I wouldn't consider this a blocker for the current PR as the API looks good.

File: Mathlib/RingTheory/Coalgebra/Basic.lean [hunk 8]
```diff
@@ -37,6 +37,29 @@ class CoalgebraStruct (R : Type u) (A : Type v)
   /-- The counit of the coalgebra -/
   counit : A →ₗ[R] R
 
+/--
+A representation of an element `a` of a coalgebra `A` is a finite sum of pure tensors `∑ xᵢ ⊗ yᵢ`
+that is equal to `comul a`.
+-/
+structure CoalgebraStruct.Repr (R : Type u) {A : Type v}
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/Coalgebra/Basic.lean:44]: I might be useful to keep `Repr` independent from the other axioms, so that `Repr` can be used in constructing say tensor product of coalgebras before we prove the axioms for tensor product of coalgebra

[the remark this answers is not in the document]
Comment (rosborn) [reply Mathlib/RingTheory/Coalgebra/Basic.lean:44]: I'm not suggesting changing the type, just the namespace.

[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/Coalgebra/Basic.lean]: This has been implemented throughout! Thanks for the suggestion

**Comment by kbuzzard** [comment]
Thanks a lot!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
